US07652015B2
Add (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid, 2,2,2-trichloro-ethyl ester (Preparation 38, 2.0 mmol, 0.8 g) over a solution of 4-(5-amino-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.0 mmol, 0.6 g) and potassium carbonate (2.20 mmol, 0.3 g) in acetonitrile (25 mL). Stir the solution for 12 hours at room temperature. Add water and extract with CH2Cl2. Combine the organic layers and wash with saturated aq. sodium chloride, dry over sodium sulfate, filter, and concentrate under reduced pressure to give a residue. Subject residue to silica gel chromatography eluting with CH2Cl2: MeOH in gradient (from 0.5 to 20%) to yield 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-ylamino}-piperidine-1-carboxylic acid tert-butyl ester. MS(ES+): m/z=548 [M+H])

reactant | (5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-carbamic acid, 2,2,2-trichloro-ethyl ester | 2.0 mmol, 0.8 g | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)C)NC(OCC(Cl)(Cl)Cl)=O | C17H20Cl3N3O2
reactant | 4-(5-amino-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.0 mmol, 0.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)N | C15H24N4O2
reactant | potassium carbonate | 2.20 mmol, 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 4-{5-[3-(5-tert-butyl-2-p-tolyl-2H-pyrazol-3-yl)-ureido]-pyridin-2-ylamino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)NC(=O)NC=1N(N=C(C1)C(C)(C)C)C1=CC=C(C=C1)C | C30H41N7O3
